US06541504B1
3-(5-Amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one
To a solution of 5-chlorooxindole (0.629 g, 3.78 mmol) in 10.0 mL monoglyme was added 7.51 mL sodium hexamethyldisilazane (1.0 M in THF) over 3 min. After stirring a troom temperature for 8 min, a solution of 5-aminophthalide (0.561 g, 3.78 mmol) in 3.0 mL of DMF was added over 1 min. The mixture was stirred for 40 min and then quenched into 4% aqueous HCl solution. The aqueous solution was neutralized to pH 7 with 1 M NaOH and then made basic with saturated NaHCO3. The solid was filtered and washed with H2O and then partitioned between EtOAc and saturated NaHCO3 (heated to dissolve the solid). The organic phase was washed with H2O, brine and then dried with Na2SO4. The solvent was removed in vacuo and the residue triturated with MeOH to give the title compound (353 mg, 31%) as a yellow solid.

reactant | 5-chlorooxindole | 3.78 mmol, 0.629 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | sodium hexamethyldisilazane | 1.0 M, 7.51 mL | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | 5-aminophthalide | 3.78 mmol, 0.561 g | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
solvent | monoglyme | 10.0 mL | C(OC)COC | C4H10O2
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 3-(5-Amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one | 353 mg, 31% | NC=1C=C2COC(C2=CC1)=C1C(NC2=CC=C(C=C12)Cl)=O | C16H11ClN2O2
